US05567726
1. (2R)-N-tert-Butyloxycarbonylpyrrolidin-2-ylmethanol
A solution of di-tert-butyl dicarbonate (34.11 g, 156.3 mmol) in DCM (125 ml) was added dropwise to a stirred solution of D-prolinol (15.04 g, 148.7 mmol) in CH2Cl2 (125 ml) at 0° C. under nitrogen. The mixture was stirred at 0° C. for 1 h and then at room temperature for 66 h. Evaporation of the solvent afforded the title-carbarnate (29.9 g, 100%); δ (360 MHz, CDCl3) 1.47 (9H, s, tBu), 1.60 (1H, br m, CH2), 1.72-1.89 (2H, m, OH2), 2.00 (1H, m, CH2), 3.31 (1H, m, CH2), 3.46 (1H, m, OH2), 3.55-3.66 (2H, m, CH2), 3.95 (1H, br m, CH2).

reactant | di-tert-butyl dicarbonate | 156.3 mmol, 34.11 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | D-prolinol | 148.7 mmol, 15.04 g | N1[C@@H](CO)CCC1 | C5H11NO
reactant | OH2 | O | H2O
solvent | DCM | 125 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | (2R)-N-tert-Butyloxycarbonylpyrrolidin-2-ylmethanol | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CO | C10H19NO3
